US07553798B2
d) Preparation of 2-[5-(3,3-dimethyl-but-1-ynyl)-thiophen-2-yl]-phenylamine (Compound No. 5i.030)
A mixture of 2-(3,3-dimethyl-but-1-ynyl)-5-(2-nitro-phenyl)-thiophene (22 g, 76 mmol), tetrahydrofurane (100 ml) and acetic acid (425 ml of a 5% aqueous solution) was heated to 80° C. Iron powder (66 g, 1.2 mol) was added in small portions at this temperature. The reaction mixture was heated for 5 hours to reflux. After cooling, it was poured on ice and extracted with ethyl acetate. The combined organic layer was washed with brine, dried over magnesium sulfate and evaporated, delivering Compound No. 5.030.i (20 g).

reactant | 2-(3,3-dimethyl-but-1-ynyl)-5-(2-nitro-phenyl)-thiophene | 76 mmol, 22 g | CC(C#CC=1SC(=CC1)C1=C(C=CC=C1)[N+](=O)[O-])(C)C | C16H15NO2S
reactant | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
catalyst | Iron | 1.2 mol, 66 g | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[5-(3,3-dimethyl-but-1-ynyl)-thiophen-2-yl]-phenylamine | CC(C#CC1=CC=C(S1)C1=C(C=CC=C1)N)(C)C | C16H17NS
